US09371281B2
To a solution of 3-acetyl-1H-indole-6-carboxylic acid methyl ester (0.65 g, 3.0 mmole) in THF (30 mL) was added BH3-THF (1.0M, 9 mL, 9 mmol). The solution was heated to reflux and then more BH3-THF (5 mL) was added. After allowing to cool and stirring for 2 hr at room temperature, the solvent was removed and the remaining material was diluted in ethyl acetate (100 mL) and washed with dilute NaHCO3 (200 mL). The organic layer was dried (MgSO4), filtered and concentrated. The remaining material was subjected to flash chromatography (25% ethyl acetate/hexanes) to collect 0.45 g (74% yield) of 3-ethyl-1H-indole-6-carboxylic acid methyl ester.

reactant | 3-acetyl-1H-indole-6-carboxylic acid methyl ester | 3.0 mmole, 0.65 g | COC(=O)C1=CC=C2C(=CNC2=C1)C(C)=O | C12H11NO3
reactant | BH3-THF | 9 mmol, 1.0M, 9 mL | B.C1CCOC1
reactant | BH3-THF | 5 mL | B.C1CCOC1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-ethyl-1H-indole-6-carboxylic acid methyl ester | 0.45 g, 74% yield | COC(=O)C1=CC=C2C(=CNC2=C1)CC | C12H13NO2
